US07696231B2
N′-(5-Iodo-2-oxo-1,2dihydro-3H-indol-3-ylidene)-3-nitrobenzohydrazide
Following the general method as outlined in Example 1, into a suspension of 5-iodo-1H-indole-2,3-dione in acetic acid was added 3-nitrobenzohydrazide. After stirring at 100° C., the reaction mixture was cooled to rt and a yellow solid precipitated out. Filtration on a fritté, washing with AcOH, water and drying under vacuo at 60° C. overnight gave 176 mg of the title compound (81%) as a orange solid in 98.4% purity by HPLC (Rt: 5.61, gradient of 10 min, MaxPlot detection between 230 and 400 nm).

reactant | 5-iodo-1H-indole-2,3-dione | IC=1C=C2C(C(NC2=CC1)=O)=O | C8H4INO2
reactant | 3-nitrobenzohydrazide | [N+](=O)([O-])C=1C=C(C(=O)NN)C=CC1 | C7H7N3O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N′-(5-Iodo-2-oxo-1,2dihydro-3H-indol-3-ylidene)-3-nitrobenzohydrazide | 176 mg, 81% | IC=1C=C2C(C(NC2=CC1)=O)=NNC(C1=CC(=CC=C1)[N+](=O)[O-])=O | C15H9IN4O4
